US07001897B2
To a solution of 3-hydroxy-1-(4-phenylcarbamoyl-1,3-thiazol-2-yl)azetidine (1.18 g, 4.29 mmol) (obtained as described in Reference Example 32(2)) in methylene chloride (60 ml) were added methanesulfonyl chloride (0.50 ml, 6.44 mmol) and triethylamine (0.90 ml, 6.44 mmol) in an ice bath, and then the mixture was stirred in the ice bath for 2 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using methylene chloride:ethyl acetate (9:1) as the eluant to afford 3-methanesulfonyloxy-1-(4-phenylcarbamoyl-1,3-thiazol-2-yl)azetidine (1.36 g, yield 89%) as a pale yellow solid.

reactant | 3-hydroxy-1-(4-phenylcarbamoyl-1,3-thiazol-2-yl)azetidine | 4.29 mmol, 1.18 g | OC1CN(C1)C=1SC=C(N1)C(NC1=CC=CC=C1)=O | C13H13N3O2S
reactant | methanesulfonyl chloride | 6.44 mmol, 0.50 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 6.44 mmol, 0.90 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 3-methanesulfonyloxy-1-(4-phenylcarbamoyl-1,3-thiazol-2-yl)azetidine | 1.36 g, yield 89% | CS(=O)(=O)OC1CN(C1)C=1SC=C(N1)C(NC1=CC=CC=C1)=O | C14H15N3O4S2
